US07452880B2
4,6-Dichloro-pyridazine-3-carboxylic acid ethyl ester (1.032 g, 4.67 mmol, prepared as described by Xie et al., WO 2004031174) was dissolved in 25 ml dry THF, and the reaction mixture was cooled in a dry ice/acetone bath for 15 minutes. 2-Methoxyphenyl magnesium bromide (7 mL of 1M solution in THF, 7.00 mmol) was added, and the reaction mixture was stirred for 8 hours under nitrogen at −78° C. Silica gel (11.0 g) was added, and the reaction mixture was allowed to warm to room temperature. Solvent was removed under reduced pressure, and the residue was purified by flash chromatography (0% to 20% EtOAc/Hexanes) to yield 1.029 g (3.65 mmol, 78%) of (4,6-dichloro-pyridazin-3-yl)-(2-methoxy-phenyl)-methanone as a yellow solid. Mass Spec. M+H=283.

reactant | 4,6-Dichloro-pyridazine-3-carboxylic acid ethyl ester | 4.67 mmol, 1.032 g | C(C)OC(=O)C=1N=NC(=CC1Cl)Cl | C7H6Cl2N2O2
reactant | 2-Methoxyphenyl magnesium bromide | 7.00 mmol, 1M, 7 mL | COC1=C(C=CC=C1)[Mg]Br
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (4,6-dichloro-pyridazin-3-yl)-(2-methoxy-phenyl)-methanone | 3.65 mmol, 1.029 g, 78% | ClC1=C(N=NC(=C1)Cl)C(=O)C1=C(C=CC=C1)OC | C12H8Cl2N2O2
